*****************************************************************************************************************
* AD8494 SPICE Macro-model  
* Revision History:            
* OI:	12/10
*       FB IAP ADI
*
*$
.SUBCKT AD8494  IN-  REF  -Vs   VCJC  VOUT  +Vs  IN+   
* Node assignments
*                 inverting input
*                 |   Ref
*                 |   |    negative supply
*                 |   |    |   No connect
*                 |   |    |    |    Cold Compensation Junction Voltage
*                 |   |    |    |    |    output voltage
*                 |   |    |    |    |    |   positive supply
*                 |   |    |    |    |    |    |     positive input
*                 |   |    |    |    |    |    |     |
*       AD8494  IN-  REF  -Vs  NC1  VCJC  VOUT  +Vs  IN+          
*************************************************************************
****************   IMPORTANT APPLICATION NOTE    ************************
* The CJC pin is a voltage input pin (only on the SPICE model, not on the actual part). It has been included in the model to demonstrate the AD849x's 
* intergrated temperature sensor functionatly and capability.
* The CJC pin can be driven by a voltage source to simulate ambient temperature conditions. The CJC input has a 1V:1C relationship, so for example, 
* a 25V input at CJC simulates ambient conditions of 25C, and 100V simulates ambient temperature of 100C.
* The user will need to attach a voltage source to CJC pin,to assign or vary an ambient temperature.

* If the user wants to sweep multiple sources simultaneously (i.e. sweep the input voltage and ambient temperature at the same time), one 
* methodology is described here:
* 1. Attach a voltage source to the CJC pin and assign a variable name, for example: {Therm} -->Dont forget the brackets<--
* 2. Copy and paste the following text commands onto your schematic page :Then they will need to do a step command as following:
*   .op
*   .step param temp -40 125 10  -> this will step up the parameter "temp" from -40 to 125 in increments of 10
*   .PARAM Therm=(temp)          -> this defines the variable Therm in terms of parameter "temp".
* 3. Perform your required sweep on any other source using the Simulation Profile settings.
*************************************************************************

        
*************************************************************************
**** IN-AMP *************************************************************
************************************************************************
R1 sub_out sub_neg 49.97E3
R2 sub_neg Inverting_Out 10.07E3
R3 sub_pos noninverting_out 10090
R4 REF sub_pos 49.97k
R5 RG- N004 24700
R6 RG+ N010 24700
D3 N004 P001 D
D4 P002 N004 D
V3 P002 VNEGx 0.94
V4 VPOSx P001 .71
D5 N010 P003 D
D6 P004 N010 D
V5 P004 VNEGx 0.94
V6 VPOSx P003 .71
D7 N005 N002 D
D8 N007 N005 D
V7 N007 VNEGx 0.6
V8 VPOSx N002 2.45
D9 N022 N018 D
D10 N024 N022 D
V9 N024 VNEGx 0.6
V10 VPOSx N018 2.45
D11 sub_out N009 D
D12 N012 sub_out D
V11 N012 N017 0.85
V12 N008 N009 0.89
D13 REF N026 D
D14 N025 REF D
V13 N025 VNEGx 0.3
V14 VPOSx N026 0.3
D15 sub_pos N020 D
D16 N019 sub_pos D
V15 N019 VNEGx 0.9
V16 VPOSx N020 0.9
E4 Inverting_Out 0 N004 0 1
E5 noninverting_out 0 N010 0 1
Q1 Inv_Fdbk N003 RG- 0 PNP
Q2 Pos_Fdbk N013 RG+ 0 PNP
V1 VBIAS -Vs -3
I1 Pos_Fdbk VBIAS 2E-6
I2 Inv_Fdbk VBIAS 2E-6
R12 RG- RG+ 2.668k
*V20 -Vs 0 -5
*V21 +Vs 0 5
C1 N004 Inv_Fdbk 19E-12
C2 N010 Pos_Fdbk 19E-12
E8 N003 0 N005 0 1
E9 N013 0 N022 0 1
VOSO VOUT1 sub_out 1.0303e-03
C3 RG- 0 1.3e-12
I23 IN- 0 -24.5E-9
I24 IN+ 0 -25E-9
G1 0 IN+ N023 N027 .7e-9
R13 IN+ N023 10e9
R14 N023 IN- 10e9
R15 +Vs N027 10e9
R16 N027 -Vs 10e9
G2 0 IN- N023 N027 .7e-9
E10 VPOSx 0 +Vs 0 1
I3 +Vs -Vs 180E-6
G3 +Vs -Vs +Vs -Vs 1e-6
E11 VNEGx 0 -Vs 0 1
H1 VPOSx N008 VOSO 1
H2 N017 VNEGx VOSO 1
R17 VBIAS Inv_Fdbk 10e9
R18 Pos_Fdbk VBIAS 10e9
H3 N006 IN- V24 19.6
V24 N001 0 0
R19 N001 0 .0166
H5 N021 IN+ V26 19.6
V26 N011 0 0
R21 N011 0 .0166
G4 0 N005 N006 N005 1
G5 0 N022 N021 N022 1
G6 0 N004 VBIAS Inv_Fdbk 1
G7 0 N010 VBIAS Pos_Fdbk 1
G8 0 sub_out sub_pos sub_neg 1
R10 N005 0 10e9
R7 N004 0 10E9
R11 N022 0 10E9
R8 N010 0 10E9
R9 sub_out 0 10E9
******************************************************
**** Cold Junction Compensation **********************
E2 VOUT2 0 0 VCJC 5E-3
**************************************************************************
********* Output as the sum of IN-AMP output and CJC output **************
**************************************************************************
E1 VOUT 0 VOUT1 VOUT2 1
**************************************************************************
**** Models used *********************************************************
.model D D
.model PNP PNP (BF=10E5 VAF=20000)
**************************************************************************
***************************************************************************
.ENDS AD8494
*$
